US06683184B2
1-[(5,6-Dimethyl-2-methoxypyrazin-3-yl)aminothiocarbonyl]-4-(3,5-dimethylphenyl)piperazine
Phenyl N-(5,6-dimethyl-2-methoxypyrazin-3-yl)thiocarbamate and 1-(3,5-dimethylphenyl)piperazine were reacted by the same way with the example 28 to obtain the titled compound.

reactant | Phenyl N-(5,6-dimethyl-2-methoxypyrazin-3-yl)thiocarbamate | CC=1N=C(C(=NC1C)OC)NC(OC1=CC=CC=C1)=S | C14H15N3O2S
reactant | 1-(3,5-dimethylphenyl)piperazine | CC=1C=C(C=C(C1)C)N1CCNCC1 | C12H18N2
product | 1-[(5,6-Dimethyl-2-methoxypyrazin-3-yl)aminothiocarbonyl]-4-(3,5-dimethylphenyl)piperazine | yield: 68.4% | CC=1N=C(C(=NC1C)OC)NC(=S)N1CCN(CC1)C1=CC(=CC(=C1)C)C | C20H27N5OS
